*global_var_num
*2
*global_cor_matrix
*1.0 0.0
*0.0 1.0
*node_num
*20
*end_time
*0.0000000015
*time_step
*0.000000000001
V10 1 0 vin_pwl_m.txt vin_zero_1500_alpha.txt vin_zero_1500_beta.txt vin_zero_1500_gamma.txt
G1 1 2 100 g_alpha.txt g_beta.txt g_gamma.txt
G2 2 3 100 g_alpha.txt g_beta.txt g_gamma.txt
G3 4 5 100 g_alpha.txt g_beta.txt g_gamma.txt
G4 5 6 100 g_alpha.txt g_beta.txt g_gamma.txt
G5 7 8 100 g_alpha.txt g_beta.txt g_gamma.txt
G6 8 9 100 g_alpha.txt g_beta.txt g_gamma.txt
G7 1 4 100 g_alpha.txt g_beta.txt g_gamma.txt
G8 2 5 100 g_alpha.txt g_beta.txt g_gamma.txt
G9 3 6 100 g_alpha.txt g_beta.txt g_gamma.txt
G10 4 7 100 g_alpha.txt g_beta.txt g_gamma.txt
G11 5 8 100 g_alpha.txt g_beta.txt g_gamma.txt
G12 6 9 100 g_alpha.txt g_beta.txt g_gamma.txt
G13 6 19 100 g_alpha.txt g_beta.txt g_gamma.txt
G14 10 11 100 g_alpha.txt g_beta.txt g_gamma.txt
G15 11 12 100 g_alpha.txt g_beta.txt g_gamma.txt
G16 13 14 100 g_alpha.txt g_beta.txt g_gamma.txt
G17 14 15 100 g_alpha.txt g_beta.txt g_gamma.txt
G18 16 17 100 g_alpha.txt g_beta.txt g_gamma.txt
G19 17 18 100 g_alpha.txt g_beta.txt g_gamma.txt
G20 10 13 100 g_alpha.txt g_beta.txt g_gamma.txt
G21 11 14 100 g_alpha.txt g_beta.txt g_gamma.txt
G22 12 15 100 g_alpha.txt g_beta.txt g_gamma.txt
G23 13 16 100 g_alpha.txt g_beta.txt g_gamma.txt
G24 14 17 100 g_alpha.txt g_beta.txt g_gamma.txt
G25 15 18 100 g_alpha.txt g_beta.txt g_gamma.txt
G26 15 20 100 g_alpha.txt g_beta.txt g_gamma.txt
G27 19 20 100 g_alpha.txt g_beta.txt g_gamma.txt
C1 1 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C2 2 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C3 3 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C4 4 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C5 5 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C6 6 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C7 7 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C8 8 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C9 9 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C10 10 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C11 11 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C12 12 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C13 13 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C14 14 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C15 15 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C16 16 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C17 17 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C18 18 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C19 19 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
C20 20 0 0.0000000000008 c_alpha.txt c_beta.txt c_gamma.txt
